US05990139
To a solution of 2-(benzyloxy)ethanol in 320 ml of dichloromethane, 35 ml of triethylamine and 19.5 ml of methanesulfonyl chloride were added under ice cooling, followed by stirring at room temperature for 2 hours. The reaction mixture was added with ice water and then extracted with dichloromethane. After the extract was washed with a saturated solution of sodium chloride, the extract was dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure, whereby 49 g of 2-(benzyloxy)ethyl methanesulfonate were obtained (yield: stoichiometric).

reactant | 2-(benzyloxy)ethanol | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | methanesulfonyl chloride | 19.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 320 ml | ClCCl | CH2Cl2
solvent | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
product | 2-(benzyloxy)ethyl methanesulfonate | 49 g | CS(=O)(=O)OCCOCC1=CC=CC=C1 | C10H14O4S
